US07728025B2
(Step 4) Production of N-(4-(1-acetylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyrazin-2-carboxamide
40 ml of fuming nitric acid was added to 3.9 g of N-(4-(1-acetylpyrrolidin-2-yl)-3-fluorophenyl)pyrazine-2-carboxamide with cooling with ice, and the reaction liquid was stirred at room temperature for 2 hours. The reaction liquid was diluted with water with ice, made basic with aqueous saturated sodium bicarbonate, and then extracted with chloroform. The organic layer was washed with saturated saline, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=50/1) to obtain the entitled compound as a yellow oily substance.

reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
reactant | N-(4-(1-acetylpyrrolidin-2-yl)-3-fluorophenyl)pyrazine-2-carboxamide | 3.9 g | C(C)(=O)N1C(CCC1)C1=C(C=C(C=C1)NC(=O)C1=NC=CN=C1)F | C17H17FN4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | N-(4-(1-acetylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyrazin-2-carboxamide | C(C)(=O)N1C(CCC1)C1=CC(=C(C=C1F)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C17H16FN5O4
